### PR TITLE
[Merged by Bors] - feat: port Data.List.Rdrop

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: Mathlib/Data/List/Rdrop.lean [hunk 1]
```diff
@@ -0,0 +1,248 @@
...
+#align list.rdrop_while_concat_neg List.rdropWhile_concat_neg
+
+theorem rdropWhile_singleton (x : α) : rdropWhile p [x] = if p x then [] else [x] := by
+  rw [← nil_append [x], rdropWhile_concat, rdropWhile_nil]
+#align list.rdrop_while_singleton List.rdropWhile_singleton
+
+theorem rdropWhile_last_not (hl : l.rdropWhile p ≠ []) : ¬p ((rdropWhile p l).getLast hl) := by
+  simp_rw [rdropWhile]
+  rw [getLast_reverse]
+  exact dropWhile_nthLe_zero_not _ _ _
```
Comment (mo271) [inline Mathlib/Data/List/Rdrop.lean:130]: The first argument here should be `0`, I guess, but somehow it can't find that.

File: Mathlib/Data/List/Rdrop.lean [hunk 2]
```diff
@@ -0,0 +1,261 @@
...
+  rw [decide_eq_true_eq] at this
+  exact this
+
+#align list.mem_rtake_while_imp List.mem_rtakeWhile_imp
+
+variable (p) (l)
+
+theorem rtakeWhile_idempotent : rtakeWhile p (rtakeWhile p l) = rtakeWhile p l :=
+  rtakeWhile_eq_self_iff.mpr fun _ => mem_rtakeWhile_imp
+#align list.rtake_while_idempotent List.rtakeWhile_idempotent
```
Comment (mo271) [inline Mathlib/Data/List/Rdrop.lean:261]: I think we want to add back 
```end List``` to end the namespace

Comment (LukasMias) [reply Mathlib/Data/List/Rdrop.lean:261]: It at least doesn't throw an error :) I have seen both variants used, but I also don't see an advantage to removing it. I'll readd it for readability.

**Comment by LukasMias** [comment]
The theorems now all work, but it took some unpleasant rewriting of some of the proofs, largely because there's a lot of ```match```ing on propositions that have to be decided first. As I understand, lean3 used to do this automatically. It's not pretty, maybe there are better ways to deal with it, but I think it's ready for review anyway.

**Comment by mo271** [comment]
Nice job!

Do you think it is worth replacing the `.nthLe` with `get` in `dropWhile_eq_self_iff`?
Here again it somehow seems that one can't just write ...`l.get 0 hl`, I suspect because somehow this is not the correct `0`.

**Comment by LukasMias** [comment]
> Nice job!
> 
> Do you think it is worth replacing the `.nthLe` with `get` in `dropWhile_eq_self_iff`? Here again it somehow seems that one can't just write ...`l.get 0 hl`, I suspect because somehow this is not the correct `0`.

I was also struggling to get that to work, but if we really treat `nthLe` as deprecated, then I guess that's the right thing to do. What seems to work is `l.get ⟨0, hl⟩`, so lifting `0 : ℕ` to type `Fin (length l)` by providing a proof that `0 < l.length`. I'll push the change :)

**Comment by LukasMias** [comment]
I may have been too hasty! I looked up what people have been saying on Zulip, and there seem to be good arguments for leaving `nthLe` intact for now if it appears in the statement, [see here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Data.2EList.2EBasic/near/319657918). I will undo my change.

**Comment by ChrisHughes24** [comment]
Maybe `rdropWhile` should take a Boolean to be consistent with the rest of the List stuff?

**Comment by mo271** [comment]
> Maybe `rdropWhile` should take a Boolean to be consistent with the rest of the List stuff?

Should we do this refactor now or leave a TODO?

**Comment by jcommelin** [comment]
@mo271 It seems that this "refactor to Boolean" is done while porting. Not ideal, but ...

**Comment by mo271** [comment]
> @mo271 It seems that this "refactor to Boolean" is done while porting. Not ideal, but ...

I tried to do the changes to `rdropWhile` suggested by @ChrisHughes24. This lead to analogous changes in
`takeWhile_prefix`, `dropWhile_suffix`, `isPrefix.filter`, `isSuffix.filter` and `isInfix.filter` in `Mathlib.Data.List.Infix`.
Now both `Mathlib.Data.List.Infix` and `Mathlib.Data.List.Rdrop` don't contain any functions to `Prop` anymore.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
